US05719303
Diethyl 1-ethoxycarbonyl-4-hydroxybutylphosphonate
The diethyl 1-ethoxycarbonyl-4-(tetrahydropyran-2-yloxy)butylphosphonate prepared in the step (a) was dissolved in 500 ml of methanol, followed by the addition of 20 g of a cation-exchange resin (Dowex 50w-8, H type). The obtained mixture was mildly refluxed for 7 hours, cooled to room temperature, and filtered to remove the resin. The filtrate was distilled to remove the solvent, giving 68.8 g of the title compound.

reactant | diethyl 1-ethoxycarbonyl-4-(tetrahydropyran-2-yloxy)butylphosphonate | C(C)OC(=O)C(CCCOC1OCCCC1)P(OCC)(OCC)=O | C16H31O7P
solvent | methanol | 500 ml | CO | CH4O
product | Diethyl 1-ethoxycarbonyl-4-hydroxybutylphosphonate | 68.8 g | C(C)OC(=O)C(CCCO)P(OCC)(OCC)=O | C11H23O6P
